US08455522B2
A flask was charged with 2-amino-4-bromo-5-fluorophenol (3.3 g, 18.84 mmol) and THF (200 mL), and CDI (3.05 g, 18.84 mmol) was added. The mixture was heated to 60° C. for 2 h. The mixture was diluted with EtOAc and washed with 1N HCl in water. The organic phase was dried over Na2SO4 and concentrated to give 5-bromo-6-fluorobenzo[d]oxazol-2(3H)-one. 1H NMR (400 MHz, DMSO-d6) δppm 7.38 (d, J=6.06 Hz, 1H) 7.56 (d, J=8.34 Hz, 1H) 11.88 (br. s., 1H).

reactant | 2-amino-4-bromo-5-fluorophenol | 18.84 mmol, 3.3 g | NC1=C(C=C(C(=C1)Br)F)O | C6H5BrFNO
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | CDI | 18.84 mmol, 3.05 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-6-fluorobenzo[d]oxazol-2(3H)-one | BrC=1C(=CC2=C(NC(O2)=O)C1)F | C7H3BrFNO2
